US09126931B2
Trifluoromethanesulfonic acid 8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester
Trifluoromethanesulfonic acid 8-methoxy-6,6-dimethyl-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester (Compound Z11, 4.82 g) was dissolved in acetonitrile (48 mL) and water (24 mL), added with sodium chlorite (2.55 g) and N-hydroxyphthalimide (369 mg), and then the mixture was stirred at 40° C. for 1 hr. The reaction mixture was added with methylene chloride and the organic layer was washed with saturated brine. Thereafter, the organic layer was dried over magnesium sulfate. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (2.80 g, 56%).

reactant | Trifluoromethanesulfonic acid 8-methoxy-6,6-dimethyl-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester | 4.82 g | COC=1C=C2C(C3=C(C4=C(O3)C=C(C=C4)OS(=O)(=O)C(F)(F)F)CC2=CC1)(C)C | C20H17F3O5S
reactant | sodium chlorite | 2.55 g | Cl(=O)[O-].[Na+]
reactant | N-hydroxyphthalimide | 369 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 48 mL | C(C)#N | C2H3N
solvent | water | 24 mL | O | H2O
product | Trifluoromethanesulfonic acid 8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester | 2.80 g, 56% | COC=1C=C2C(C3=C(C4=C(O3)C=C(C=C4)OS(=O)(=O)C(F)(F)F)C(C2=CC1)=O)(C)C | C20H15F3O6S
